US08084483B2
Ethyl 2-bromo-2-methylpropanoate (89 μL, 0.596 mmol) and diisopropylethylamine (0.31 mL, 1.789 mmol) were added to a solution of 4-(4-cyclopropylnaphthalen-1-yl)-5-(trifluoromethyl)-4H-1,2,4-triazole-3-thiol (0.2 g, 0.596 mmol) in DMF (1.2 mL) and the mixture heated at 60° C. for 20 hours. The mixture was concentrated, acidified with HCl (1M aqueous, 2 mL) and extracted with ethyl acetate (3×3 mL). The combined organic extracts were dried over sodium sulfate, concentrated and purified by column chromatography (0-25% EtOAc/hexanes) to provide ethyl 2-(4-(4-cyclopropylnaphthalen-1-yl)-5-(trifluoromethyl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoate as a clear oil (0.1 g, 37%).

reactant | Ethyl 2-bromo-2-methylpropanoate | 0.596 mmol, 89 μL | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | diisopropylethylamine | 1.789 mmol, 0.31 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(4-cyclopropylnaphthalen-1-yl)-5-(trifluoromethyl)-4H-1,2,4-triazole-3-thiol | 0.596 mmol, 0.2 g | C1(CC1)C1=CC=C(C2=CC=CC=C12)N1C(=NN=C1C(F)(F)F)S | C16H12F3N3S
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
product | ethyl 2-(4-(4-cyclopropylnaphthalen-1-yl)-5-(trifluoromethyl)-4H-1,2,4-triazol-3-ylthio)-2-methylpropanoate | 0.1 g, 37% | C1(CC1)C1=CC=C(C2=CC=CC=C12)N1C(=NN=C1C(F)(F)F)SC(C(=O)OCC)(C)C | C22H22F3N3O2S
